US08791134B2
1-Nitrosocyclohexyl 2,4-dichlorobenzoate was prepared according to General Method 3. A solution of cyclohexanone oxime (2.66 g, 23.5 mmol) in DCM (50 ml) was added dropwise to a solution of lead tetra acetate (10.42 g, 23.5 mmol) and 2,4 dichlorobenzoic acid (45.0 g, 235 mmol) in DCM (300 ml) at 0° C. A blue color gradually appears on addition of the oxime solution. Upon complete addition (1 hour) the reaction was allowed to warm to ambient temperature and stirring was continued for a further 2-3 hours. The reaction was quenched by the addition of water, the phases separated and the organics dried over Na2SO4 and concentrated in vacuo to afford 1-nitrosocyclohexyl 2,4-dichlorobenzoate which was purified by column chromatography on silica gel with hexane:EtOAc as the eluent to afford the title compound as a blue oil in 9% yield. δH (400MHz, DMSO-d6) δ 8.02 (1H, d, 8.4 Hz), 7.85 (1H, d, 2.0 Hz), 7.64 (1H, dd, 8.4, 2.0 Hz), 2.03-2.12(2H, m), 1.38-1.93 (8H, m).

reactant | cyclohexanone oxime | 23.5 mmol, 2.66 g | C1(CCCCC1)=NO | C6H11NO
reactant | 2,4 dichlorobenzoic acid | 235 mmol, 45.0 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-nitrosocyclohexyl 2,4-dichlorobenzoate | ClC1=C(C(=O)OC2(CCCCC2)N=O)C=CC(=C1)Cl | C13H13Cl2NO3
